Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Constipation
 
Major Surgical or Invasive Procedure:
___ - NGT placement
___ - PICC placement
___ -___ placement of J-tube placement
___ - Exploratory laparotomy and ileostomy 
___ - Diagnostic paracentesis
___ - PICC removal

 
History of Present Illness:
___ yo male with a history of HIV and anal cancer who is admitted 
with ___ and nausea. The patient states about a week ago he 
stated having nausea after eating anything. He therefore has 
been eating and drinking very little. He also has been 
constipated with his last stool through his ostomy one week ago. 
He denies any abdominal pain. He denies any dysuria or changes 
in his urination. He has been passing gas. He denies any fevers, 
shortness of breath, or rashes. He went to clinic today to have 
labwork done for a clinical trial evaluation and was found to 
have ___ with a creatinine of 4.7. He was admitted for 
further workup and to treat his nausea. In clinic he received IV 
fluids and a RBC transfusion.

REVIEW OF SYSTEMS: All reviewed and negative except as noted in 
the HPI.

PAST ONCOLOGIC HISTORY (per OMR):
- Anal Cancer
- presented to ___ on ___ with anal discomfort for past 4 
months. He was moving
from ___ to ___ and delayed seeking care until 
symptoms worsened to pain making sitting very painful and bloody 
bowel movements and incontinence. He become fearful of his diet 
and lost about 10 pounds due to avoidance of food because of the 
possible effect could have on his bowels.  On presentation to ED 
he was found to have large anal mass. MR revealed large 
anorectal mass 13.2cm with involvement of sphincters and 
enlargement of numerous enlarged bilateral inguinal, bilateral 
internal iliac, and left external iliac lymph nodes; Stage 
T4N3Mx; CT torso without other noted metastatic involvement; PET 
showed avid anorectal lesion as well as bilateral enlarged 
inguinal lymph nodes, measuring up to 1.0 cm on the right with 
increased FDG uptake, measuring an SUV max of 4.4, and 1.2 cm on 
the left. He underwent ___olostomy and 
port placement for planned chemo RT. Pathology revealed anal 
squamous cell carcinoma with basaloid features. 
___: started ___ with radiation therapy, ___, 
then ___-, planned to 60 Gy ___ with radiation 
therapy. He was admitted ___ - ___ for debridement 
and flap of his wound.  A pulmonary nodule was found and on 
___ biopsy confirmed recurrent squamous cell cancer in 
addition he had residual disease at biopsy of the anus in the 
end of ___.
 
Past Medical History:
1. HIV diagnosed in ___ provider at ___,  Dr.
___
2. Anal condylomata treated with cryotherapy about ___ in
___.
3. Syphilis treated with IM penicillin in ___.
4. Gonorrhea treated in ___.
5. Hypertension treated with lisinopril.
6. Cellulitis of both legs in ___.

 
Social History:
___
Family History:
- maternal cousin breast cancer at ___
- mother ___ breast cancer
- maternal grandmother with pancreatic cancer
- maternal aunt's son ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
General:  NAD
VITAL SIGNS: T 97.9 BP 140/82 HR 100 RR 18
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft,ND
SKIN:  Anal wound bandaged.
NEURO: Alert and oriented, no focal deficits.

DISCHARGE PHYSICAL EXAM:
======================
PHYSICAL EXAM:  
___ 0335 Temp: 97.7 PO BP: 123/77 HR: 110 RR: 18 O2 sat: 
97%
O2 delivery: RA 
GENERAL: NAD
HEENT: Anicteric sclerae
LUNGS: CTAB - no wheezes, rhonchi, or crackles
HEART: RRR, no m/r/g
ABD: S, NT, mildly distended, +2 ostomies (end-ileostomy w/ 
scant
output, colostomy w/ solid brown output) sites
that appear pink and well-appearing, +abdominal incision without
surrounding erythema or exudates. 
EXT: No BLE edema 
SKIN: No rashes observed
NEURO: Alert, no dysarthria or facial droop

 
Pertinent Results:
ADMISSION LABS:
============================
___ 10:25AM BLOOD WBC-13.1* RBC-3.34* Hgb-8.8* Hct-26.5* 
MCV-79* MCH-26.3 MCHC-33.2 RDW-15.0 RDWSD-43.3 Plt ___
___ 10:25AM BLOOD Neuts-89* Bands-0 Lymphs-4* Monos-4* 
Eos-1 Baso-1 ___ Metas-1* Myelos-0 AbsNeut-11.66* 
AbsLymp-0.52* AbsMono-0.52 AbsEos-0.13 AbsBaso-0.13*
___ 05:00AM BLOOD ___ PTT-32.6 ___
___ 10:25AM BLOOD  WBC-13.1* Lymph-4* Abs ___ CD3%-78 
Abs CD3-410* CD4%-28 Abs CD4-148* CD8%-43 Abs CD8-224 
CD4/CD8-0.66*
___ 10:50AM BLOOD Glucose-118* UreaN-73* Creat-4.7*# 
Na-132* K-3.8 Cl-91* HCO3-23 AnGap-18
___ 05:00AM BLOOD ALT-8 AST-13 AlkPhos-283* TotBili-0.3
___ 10:50AM BLOOD Albumin-2.9* Calcium-8.4 Phos-5.3* 
Mg-3.1*
___ 05:00AM BLOOD TSH-5.2*

RELEVANT INTERVAL LABS:
============================

___ 05:26PM BLOOD Hapto-282*
___ 05:38AM BLOOD calTIBC-101* Ferritn-849* TRF-78*
___ 06:05AM BLOOD VitB12-1133*
___ 06:07AM BLOOD Triglyc-74
___ 10:25AM BLOOD HIV1 VL-NOT DETECT
___ 11:02PM URINE Hours-RANDOM Creat-35 Na-<20 K-15
___ 02:15PM URINE Hours-RANDOM UreaN-310 Creat-43 Na-41 
K-16 Cl-26 TotProt-42 Prot/Cr-1.0*
___ 12:00PM URINE Hours-RANDOM Creat-49 Na-63 K-13 Cl-50
___ 05:54PM URINE Hours-RANDOM Creat-71 Na-33 Calcium-9.1
___ 08:36PM URINE RBC-3* WBC-22* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 11:32AM ASCITES TNC-87* RBC-123* Polys-10* Lymphs-35* 
Monos-4* Macroph-51*
___ 11:32AM ASCITES TotPro-3.2 Glucose-71 LD(LDH)-136

DISCHARGE LABS:
=============================
___ 04:57AM BLOOD WBC-14.5* RBC-2.63* Hgb-7.1* Hct-22.4* 
MCV-85 MCH-27.0 MCHC-31.7* RDW-15.5 RDWSD-48.2* Plt ___
___ 04:57AM BLOOD Glucose-88 UreaN-6 Creat-0.5 Na-127* 
K-4.2 Cl-92* HCO3-24 AnGap-11
___ 04:57AM BLOOD Calcium-10.5* Phos-2.8 Mg-1.8

MICROBIOLOGY:
=============================
___ 5:12 pm Blood (Toxo)      Source: Line-POC. 

                            **FINAL REPORT ___

   TOXOPLASMA IgG ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      0.0 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


   TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED.

___ 9:37 pm SWAB      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 
         Work-up of organism(s) listed discontinued (excepted 
screened
         organisms) due to the presence of mixed bacterial flora 
detected
         after further incubation. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

   ANAEROBIC CULTURE (Final ___: 
      BACTEROIDES FRAGILIS GROUP.    SPARSE GROWTH. 
         BETA LACTAMASE POSITIVE. 

__________________________________________________________
___ 12:00 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 10:00 pm BLOOD CULTURE      Source: Line-POC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:36 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    >100,000 CFU/mL. 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 
__________________________________________________________
___ 9:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:36 pm BLOOD CULTURE      Source: Line-port. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:44 pm CATHETER TIP-IV      Source: PICC. 

                            **FINAL REPORT ___

   WOUND CULTURE (Final ___:    No significant growth. 
__________________________________________________________
___ 11:32 am PERITONEAL FLUID

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:30 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:15 am BLOOD CULTURE      Source: Line-port. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:10 am BLOOD CULTURE      Source: Line-port. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.  

IMAGING:
=============================
___ RENAL US
FINDINGS: 
The right kidney measures 12.3 cm. The left kidney measures 14 
cm. There is no
stones, or masses bilaterally.  There is mild to moderate 
bilateral
hydronephrosis without obstructing lesion seen.  Normal cortical 
echogenicity
and corticomedullary differentiation are seen bilaterally. The 
bladder is moderately well distended and normal in appearance.
IMPRESSION: 
Mild to moderate bilateral hydronephrosis without an obstructing 
lesion
identified.

___ KUB:
IMPRESSION: 
Dilated small bowel with air-fluid levels, but accompanied by 
distended gas
and stool-filled colon.  Findings could represent ileus or 
partial small bowel
obstruction.  No free air.

___ RENAL US
IMPRESSION:
1. Interval resolution of bilateral hydronephrosis.
2. The bladder contains debris, however is incompletely 
evaluated due to presence of a Foley catheter. If further 
evaluation of the bladder is desired, repeat ultrasound after 
clamping the Foley, or cystoscopy could be performed.

___ CT CHEST W/ CONTRAST:
IMPRESSION:
-Mediastinal and hilar lymphadenopathy is new since ___ 
as are the
bilateral pulmonary cavitated masses suspected for metastasis.
-New multifocal pneumonia of the right lung with right small 
layering pleural
effusion.

___ CT A/P W/ CONTRAST:
IMPRESSION:
1. Postoperative changes post anal cancer resection which extend 
into the prostate as described.  New small-bowel obstruction 
with a transition point at the surgical resection site.
2. New right hepatic metastasis causing nonocclusive thrombus in 
a small hepatic venous branch and segmental biliary obstruction.
3. Please see the separately submitted report of the same day CT 
Chest for findings above the diaphragm.

___ CT A/P W/ CONTRAST IMPREESSION:
1. Large pneumoperitoneum, new since ___.  Given no 
extra luminal oral contrast administered via jejunostomy, 
unlikely due to bowel perforation. 
2. Interval increase in size of hepatic hypodensity and 
progressive occlusion of a branch of right hepatic vein compared 
to ___.  Given short term interval change, the 
hepatic lesion is concerning for an abscess, though metastatic 
disease is still possible. 
3. Increased low-density ascites. 
4. Persistently open wound in the gluteal region, status post 
abdominoperoneal resection. 
5. Persistent small bowel obstruction with transition point in 
the pelvis. 

___ RENAL U/S IMPRESSION: 
1. Limited evaluation of the kidneys due to poor acoustic window 
and patient position.  However, previous hydronephrosis is no 
longer visualized. 
2. Echogenic liver likely due to steatosis 

___ CT A/P W/ CONTRAST IMPRESSION: 
1. Hypodense lesion in the right hepatic lobe is increased in 
size since the prior study.  Given the rapid increase in size, 
findings are most suggestive of abscess, though a particularly 
aggressive metastatic lesion is not entirely excluded. 
2. The open surgical wound in the posterior lower pelvis is 
contiguous with a right hemipelvic collection, slightly 
increased in size since the prior study. There is increasing rim 
of enhancement with increased organization as compared the prior 
study.  Findings are consistent with a developing abscess. 
3. Increased cortical erosion of the right pubic symphysis 
adjacent to the 
right hemipelvic collection is concerning for osteomyelitis.  
Cortical erosion has been slowly increasing in this area since ___ and was not present on the ___ study.  
Additionally, there is now more clear visualization of a linear 
lucency through this area, which may represent a pathologic 
fracture through this area. 
4. New peritoneal enhancement is noted as well as moderate 
volume ascites, 
increased since the prior study raising the possibility of 
peritonitis. 
5. Severe bladder wall thickening, increased since the prior 
study, may 
represent radiation versus infectious cystitis.  Clinical 
correlation is 
recommended. 
6. Multiple bilateral lung masses compatible with metastatic 
disease, grossly unchanged since prior study. 

___ RUQ U/S IMPRESSION: 
1. Abnormal structure in the right hepatic lobe would be 
amenable to 
aspiration/drainage with ultrasound if clinically appropriate, 
but in addition to abscess, the differential includes solid or 
necrotic metastatic lesion. 
2. Loculated ascites. 

___ CT A/P W/ CONTRAST IMPRESSION: 
1. Minimal decrease in volume of loculated abdominal and pelvic 
ascites, with continued reactive peritoneal enhancement. 
2. Interval enlargement and increased cortical destruction of a 
right iliac metastasis in comparison to the ___ 
study. 
3. New 9 mm lytic metastasis along the superior aspect of the L4 
vertebral 
body. 
4. Interval slight enlargement of a right lower pelvic soft 
tissue mass with destruction of the posterior aspect of the 
pubic symphysis. 
5. Interval slight enlargement of a right hepatic metastasis. 
6. Post APR and small-bowel resection, with left lower quadrant 
colostomy and right lower quadrant ileostomy.  Large posterior 
lower pelvic wound is 
minimally changed in comparison to the prior study.  Moderate 
distention of small bowel, without high-grade obstruction. 
7. Known left lower lobe pulmonary mass and moderate right 
pleural effusion are unchanged since ___, partially 
visualized on this study. 
8. Thickened bladder wall is unchanged, compatible with 
cystitis. 
9. Moderate splenomegaly. 

___ US-GUIDED PARACENTESIS IMPRESSION:
1. Technically successful ultrasound guided diagnostic 
paracentesis. 
2. 195 mL of clear straw-colored fluid were removed. 

___ CXR IMPRESSION:
Lungs continue to be low volume with improved pulmonary edema.  
Small 
bilateral effusions right greater than left are stable.  Left IJ 
line projects to the cavoatrial junction.  No pneumothorax is 
seen.  Cardiomediastinal silhouette is stable. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo male with a history of metastatic anal 
cancer and HIV who was admitted on ___ with ___ and 
constipation, with findings of new LAD and bilateral cavitary 
lesions on CT, and who ultimately has had a prolonged course due 
to malignant bowel obstruction s/p NGT and J-tube placement 
(nausea, vomiting, decreased UOP and stool output), with course 
significantly complicated by bowel perforation on ___ now 
s/p exploratory laparotomy, repair of enterotomy, small bowel 
resection, and end ileostomy; who has had post-op course 
complicated by difficult pain management (s/p PCA with 
improvement) and ___.

================================================================

FICU COURSE:

Patient was brought to the FICU after ex lap, repair of 
enterotomy, and small bowel resection end ileostomy. He remained 
intubated after the surgery upon arrival on ___. He was weaned 
to pressure support on ___ and tolerated a spontaneous 
breathing trial. He was successfully extubated on ___. Patient 
remained hypotensive on ___, requiring 4L IVF and levophed 
drip for a brief period of time. NICOM was used and demonstrated 
hypotension was fluid responsive. Levophed drip was weaned and 
BP remained stable. Patient remained on Zosyn. His pain was 
controlled with IV Dilaudid while fentanyl gtt was weaned. 
Developed ___ renal was consulted and felt it was likely 
related to ATN. His Cr was downtrending when patient was called 
out of FICU. Had acute drop in Hgb, felt to be secondary to 
blood loss from wound on back and dilutional. He was transfused 
1u pRBCs. Wound culture growing GNRs. 

================================================================

#Sinus Tachycardia: Baseline rates 100s-120s with occasional 
spikes to 140s. Occurs at rest and with activity. Never 
associated with hypotension, dyspnea, hypoxia or other symptoms. 
Extensive infectious work up has been negative. Prior CTAs 
negative though noted to be >1 month ago. Given lack of hypoxia 
or respiratory distress in the setting of lovenox ppx, PE is 
unlikely. Likely due to hypovolemia and deconditioning in 
addition to inflammatory state due to underlying malignancy. 

#Malignant Bowel Obstruction
#S/p bowel perforation
In the setting of decreased stool output, N/V and abdominal 
pain, CT abdomen/pelvis was obtained and patient was found to 
have an distal bowel obstruction. S/p ___ guided placement of 
decompressive J-tube ___. On ___, was found to have 
significantly worsened diffuse abdominal pain, KUB with slight 
free air and bowel loop distention, and ultimately was found to 
have significant free air concerning for bowel perforation on 
CT. He was taken urgently to the OR, where he 
underwent an exploratory laparotomy, repair of enterotomy, small 
bowel resection, and end ileostomy. He was transferred to the 
colorectal surgery service. His peritoneal fluid grew E. Coli 
for which he was treated with Zosyn 4.5mg q8 hours. This was 
stopped on ___. He treated with a PCA for pain control, which 
was ultimately stopped and he was transition to a PO regimen. At 
discharge, his pain regimen was: 
OxyCODONE (Immediate Release) 15 mg PO/NG Q3H:PRN 
OxyCODONE SR (OxyconTIN) 120 mg PO Q12H 
HYDROmorphone (Dilaudid) 3 mg IV BID:PRN Dressing changes, 
position changes 
LORazepam 0.5 mg PO/NG Q6H:PRN anxiety/nausea 
Cyclobenzaprine 10 mg PO/NG TID:PRN muscle spasms 
Gabapentin 300 mg PO/NG TID 

#Malnutrition: Received TPN intermittently, and diet was 
advanced as tolerated. He was noted to have significant weight 
loss during his hospitalization. We had discussed placing a 
 ___ for feeding and explained to the patient that his 
nutrition was very important for his wound healing and recovery, 

however the patient declined a feeding tube.

#Acute Kidney Injury: Baseline Cr ~1.0. Has had multiple AKIs
throughout his prolonged hospitalization - initially post-renal 
(Cr 4.7 on admission) that was resolved with a Foley (remains in 

place), another in the setting of surgery and sepsis leading to 
ATN. The patient was discharged with a foley catheter due to 
failed voiding trials with plans to see urology as anoutpatient. 


#Anal cancer:
#Surgical wound: 
#Fevers:
CT chest/abd/pelvis c/f new metastasis in the liver and lungs; 
also found to have an SBO c/b perforation (see above). Later 
during his hospitalization, had a CT with findings of new bony 
lesions most concerning for metastasis. Not currently on 
treatment, but plans to receive outpatient chemotherapy after 
discharge. Additionally, the patient was found to have low grade 

fevers at night. Extensive infectious work up was performed 
including blood/urine cultures, chest x-ray, CT Abd/pelvis, 
CMV/EBV testing in addition tosampling of known intra-abdominal 
fluid collections which was unrevealing. Due to increased 
malignant disease with new ___ metastasis seen on repeat 
abdominal cross sectional imaging, his fevers and flutuating 
leukocytosis were attributed to malignancy. We discussed his 
case with plastics surgery out of concern for wound infection. 
They stated that his wound was healing well and the amount of 
drainage that was noted in the wound was to be expected. They 
recommended against and MRI to assess for deep wound infection. 
In addition, the patient would not have been able to tolerate 
lying flat for an MRI.

#Anemia:
S/p multiple pRBCs transfusions throughout his prolonged 
hospitalization. Previously thought to be ___ anemia of chronic 
disease and sepsis. His Hgb eventually stabilized in the 8s by 
time of discharge. 

#HIV - Family DOES NOT KNOW ABOUT HIV STATUS:
Continued dolutegarvier, emtricitabine-tenofovir. His primary 
care physician started him on Bactrim, which was discontinued 
due to renal failure. His ID doctor and primary oncologist were 
e-mailed regarding starting Bactrim again vs. Atovaquone. 
Toxoplasma IgG were negative and thus, it was safe to hold 
Bactrim indefinitely; he was initiated on prophylactic 
Atovaquone at discharge.

#Hypercalcemia, resolved: Likely due to inactivity and new bony 
lesions. PTH appropriately depressed. Ca worsened despite IVF 
administration, however pt remained symptomatic. Vitamin D <5. 
S/p IV Pamidronate 60mg x1 on ___, with subsequent resolution 
of his hypercalcemia. Given low Vitamin D level, he was started 
on 1000U Vitamin D daily. His PTHrP was wnl.

#Maculopapular rash, resolved: likely folliculitis from sweating 

in hospital bed. Improved with anti-histamines and moisturizing 
lotion. Given resolution of symptoms, discontinued Fexofenadine 
and Benadryl PRN. He was continued on Sarna lotion QID PRN.

================= 
TRANSITIONAL ISSUES
================= 
NEW MEDICATIONS: 
[] Atovaquone for PCP ___ 
[] Lovenox for DVT PPX 
[] Gabapentin 300 TID 
[] Hydrocerin 
[] Dilaudid IV 3mg PRN dressing changes
[] Lidocaine Patch 
[] Mirtazapine 15mg PO QHS 
[] Multivitamin 
[] Omeprazole 20mg daily 
[] Vitamin D 

HELD MEDICATIONS: 
[] Ibuprofen iso kidney injury 

FOLLOW-UP: 
[]Bactrim d/c'd due to prior ___, started on atovaquone for PCP 
___. Toxo serology negative

[]urology follow up for foley removal, this appointment still 
needs to be confirmed ___ ___

[]continue to assess hypercalcemia (repeat labs on or after 
___ and consider readministering bisphosphonate therapy (Dosed 
on ___

[]Please continue to monitor patient's weight loss and discuss 
need for enteral feeding. Patient has been declining tube 
feeding

[] Please ensure follow up with plastic surgery, colorectal 
surgery and urology

[]Fevers and leukocytosis are thought to be due to malignancy.

[]Baseline HRs 100s-120s with occasional spikes to 140s, thought 

to be from deconditioning. Multiple infectious work ups and 
LENIs have
been negative. 

Discharge Weight: 85 kg

CODE: Full 
Contact: Health care proxy chosen: Yes
Name of health care proxy: ___: mother
Cell phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 
2. Docusate Sodium 100 mg PO BID 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY 
5. Polyethylene Glycol 17 g PO BID 
6. Tamsulosin 0.4 mg PO QHS 
7. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
8. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
9. LORazepam 0.5 mg PO Q12H:PRN Nausea 
10. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
11. Milk of Magnesia 30 mL PO Q12H:PRN Constipation 
12. Ondansetron 4 mg PO Q8H:PRN Nausea 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
2.  Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 10 ml by mouth daily Refills:*0 
3.  Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 
RX *cyclobenzaprine 5 mg 2 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth two times daily. 
Disp #*60 Tablet Refills:*0 
5.  Enoxaparin Sodium 40 mg SC DAILY  
6.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
7.  Hydrocerin 1 Appl TP QID:PRN dry skin  
8.  HYDROmorphone (Dilaudid) 3 mg IV BID:PRN Dressing changes, 
position changes 
RX *hydromorphone 1 mg/mL 3 mg iv twice a day Disp #*42 Ampule 
Refills:*0 
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY:PRN Dressing 
changes  
11.  Mirtazapine 15 mg PO QHS  
12.  Multivitamins W/minerals 1 TAB PO DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth two 
times daily Disp #*60 Packet Refills:*0 
15.  Sarna Lotion 1 Appl TP QID:PRN itching  
16.  Vitamin D 1000 UNIT PO DAILY  
17.  OxyCODONE (Immediate Release) 15 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth q3h Disp #*56 Tablet 
Refills:*0 
18.  OxyCODONE SR (OxyconTIN) 120 mg PO Q12H 
RX *oxycodone [OxyContin] 60 mg 2 tablet(s) by mouth every 
twelve (12) hours Disp #*14 Tablet Refills:*0 
19.  Dolutegravir 50 mg PO DAILY  
20.  Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY  
21.  LORazepam 0.5 mg PO Q12H:PRN Nausea 
RX *lorazepam 0.5 mg 1 tablet by mouth every twelve (12) hours 
Disp #*14 Tablet Refills:*0 
22.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation  
23.  Ondansetron 4 mg PO Q8H:PRN Nausea  
24.  Tamsulosin 0.4 mg PO QHS  
25. HELD- Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate Duration: 
7 Days 
  Reason for PRN duplicate override: Alternating agents for 
similar severity This medication was held. Do not restart 
Ibuprofen until your doctor tells you it is safe to do so

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Acute renal failure
Severe constipation
Anal cancer status post resection

Secondary:
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were constipated for a 
week, and your labs showed that your kidneys were injured.  We 
gave you fluids and also put in a Foley catheter.  Your kidney 
function improved, and you will need to follow up with a 
urologist to determine how long the catheter will need to stay 
in place.

We also found that you have a bowel obstruction, which was 
causing your diarrhea. You had a nasogastric tube and a 
jejunostomy tube placed to help decompress your bowels. You were 
started on TPN, a form of nutrition that you receive through a 
___ line. 

Please make sure you keep your follow-up appointments and take 
medications as listed below.  It is important that you keep your 
bowels moving, and we have prescribed some medications to help 
make sure this happens.  If your stools become too loose or 
frequent, you can stop the senna but continue taking the other 
medications. If your ostomy output stops again for more than 2 
days, contact your doctor.

It was a pleasure taking care of you,
Your ___ Team 
 
Followup Instructions:
___